US04012413
In the manner given in Example 22, a mixture of 1-(2-aminoethyl)-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, 37% aqueous formaldehyde and acetic acid in acetonitrile is treated with sodium cyanoborohydride and the resulting boron complex is warmed with aqueous ethylenedizmine to give 1-[2-(dimethylamino)ethyl]-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 1-(2-aminoethyl)-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NCCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C18H15Cl2N5
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[2-(dimethylamino)ethyl]-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(CCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)C | C20H19Cl2N5
